US08536364B2
Synthesis of ethyl 3-mercapto-2-methylbutyrate
Under nitrogen atmosphere, a mixture of 40.00 g (0.192 mol) of ethyl 3-acetylthio-2-methylbutyrate and 800 ml of ethanol was cooled to −15° C., 72.01 g (0.212 mol, 1.1 Eq) of a 20% solution of sodium ethoxide in ethanol was added dropwise thereto over 1 hour, and the mixture was stirred for 3 hours. The reaction mixture was neutralized with 15.00 g of acetic acid, and then ethanol was evaporated off under reduced pressure. After addition of an aqueous sodium chloride solution to the residue, extraction with diethyl ether was performed. The organic layer was washed successively with a saturated aqueous sodium bicarbonate solution and brine (twice). The solvent in the organic layer was evaporated off, and vacuum distillation (35 to 36° C./2 torr) was performed to give 17.63 g of the objective compound (GC purity: 99.3%, yield: 56.1%, diastereomer ratio: 80.6/19.4).

reactant | ethyl 3-acetylthio-2-methylbutyrate | 0.192 mol, 40.00 g | C(C)(=O)SC(C(C(=O)OCC)C)C | C9H16O3S
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | acetic acid | 15.00 g | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 800 ml | C(C)O | C2H6O
product | ethyl 3-mercapto-2-methylbutyrate | 17.63 g, yield: 56.1% | SC(C(C(=O)OCC)C)C | C7H14O2S
